US09304126B2
N-((4-(Dibenzo[b,f][1,4]thiazepin-11-yl)-1-(2-(2-hydroxyethoxy)ethyl)piperazin-2-yl)methyl)-2,2,2-trifluoroacetamide
To a solution of 11-chlorodibenzo[b,f][1,4]thiazepine, prepared as described in the previous step, (2 g, crude) in dioxane (20 mL) was added Pd2(dba)3 (327 mg, 0.357 mmol), BINAP (225 mg, 0.357 mmol), triethylamine (6 mL, 42.9 mmol) and 2,2,2-trifluoro-N-((1-(2-(2-hydroxyethoxy)ethyl)piperazin-2-yl)methyl)acetamide, prepared as described as Step F, (2.4 g, crude). The resulting mixture was heated to reflux overnight under nitrogen atmosphere, filtered through CELITE™, and concentrated. The residue was purified by silica gel chromatography to provide the title compound. ESI-MS (M+1): 509 calc. for C24H27F3N4O3S 508.

reactant | 11-chlorodibenzo[b,f][1,4]thiazepine | ClC1=NC2=C(SC3=C1C=CC=C3)C=CC=C2 | C13H8ClNS
reactant | BINAP | 0.357 mmol, 225 mg | C=1C=CC(=CC1)P(C=2C=CC=CC2)C3=CC=C4C=CC=CC4=C3C5=C6C=CC=CC6=CC=C5P(C=7C=CC=CC7)C=8C=CC=CC8 | C44H32P2
reactant | triethylamine | 42.9 mmol, 6 mL | C(C)N(CC)CC | C6H15N
reactant | 2,2,2-trifluoro-N-((1-(2-(2-hydroxyethoxy)ethyl)piperazin-2-yl)methyl)acetamide | FC(C(=O)NCC1N(CCNC1)CCOCCO)(F)F | C11H20F3N3O3
solvent | dioxane | 20 mL | O1CCOCC1 | C4H8O2
catalyst | Pd2(dba)3 | 0.357 mmol, 327 mg | C=1C=CC(=CC1)/C=C/C(=O)/C=C/C2=CC=CC=C2.C=1C=CC(=CC1)/C=C/C(=O)/C=C/C2=CC=CC=C2.C=1C=CC(=CC1)/C=C/C(=O)/C=C/C2=CC=CC=C2.[Pd].[Pd]
product | N-((4-(Dibenzo[b,f][1,4]thiazepin-11-yl)-1-(2-(2-hydroxyethoxy)ethyl)piperazin-2-yl)methyl)-2,2,2-trifluoroacetamide | C1=CC=CC2=C1C(=NC1=C(S2)C=CC=C1)N1CC(N(CC1)CCOCCO)CNC(C(F)(F)F)=O | C24H27F3N4O3S
